US04681875
1.0 g of 16α-(tert-butyldimethylsilyloxy)-1,3,5(10)-estratriene-3,17β-diol is reacted with isobutyric anhydride under the reaction conditions set forth in Example 3(a), thus obtaining 1.3 g of 16α-(tert-butyldimethylsilyloxy)-3,17β-diisobutyryloxy-1,3,5(10)-estratriene.

reactant | 16α-(tert-butyldimethylsilyloxy)-1,3,5(10)-estratriene-3,17β-diol | 1.0 g | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)O)O | C24H38O3Si
reactant | isobutyric anhydride | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
product | 16α-(tert-butyldimethylsilyloxy)-3,17β-diisobutyryloxy-1,3,5(10)-estratriene | 1.3 g | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC(C(C)C)=O)OC(C(C)C)=O | C32H50O5Si
